US07645771B2
Preparation of 2-Chloro-N-[2-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethyl]-acetamide
2-Chloro-N-[2-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethyl]-acetamide was obtained from treating 2-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethyl]-carbamic acid tert-butyl ester (0.610 g, 0.97 mmol) with HCl as outlined in the procedure for Example 890 to form 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-2-methyl-propan-1-one (0.510 g, 99%). 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-2-methyl-propan-1-one (0.050 g, 0.09 mmol, Chloro-acetyl chloride (0.010 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, 2-Chloro-N-[2-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethyl]-acetamide (0.027 g, 49%) as an oil. ES-LCMS m/z 608 (M+1).

reactant | 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-2-methyl-propan-1-one | NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(C)C | C32H42FN5O
reactant | Chloro-acetyl chloride | 0.09 mmol, 0.010 g | ClCC(=O)Cl | C2H2Cl2O
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | 2-Chloro-N-[2-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethyl]-acetamide | 0.027 g, 49% | ClCC(=O)NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(C)C | C34H43ClFN5O2
